US04005208
To an ice cold solution of 2.8 g. of 1-cyclopropyl-4-piperidone in 300 ml. of absolute methanol is added 0.02 moles of a solution of hydrogen chloride-methanol, 27 g. of ammonium nitrate and 2.4 g. of sodium cyanoborohydride. The solution is stirred for 72 hours at 25° C. and then poured into dilute acetic acid. The acidic solution is washed with ether and then made basic by the addition of ammonium hydroxide. The basic solution is extracted with methylene chloride, and the organic extract dried. Concentration of the extract in vacuo gives 4-amino-1-cyclopropylpiperidine.

reactant | 1-cyclopropyl-4-piperidone | C1(CC1)N1CCC(CC1)=O | C8H13NO
reactant | hydrogen chloride methanol | Cl.CO
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 4-amino-1-cyclopropylpiperidine | NC1CCN(CC1)C1CC1 | C8H16N2
